US05189023
N-(Dibenzyloxyphosphinyl)-L-phenylalanine
A solution of 8.2 g of L-phenylalanine and 25 ml of triethylamine in 15 ml of water and 10 ml of ethanol under argon is chilled to 0° C. To this stirred solution is added dropwise 13.1 g of dibenzyl phosphite in 20 ml of carbon tetrachloride. After the addition, the mixture is stirred at room temperature for 3 hours and the mixture is concentrated under vacuum, diluted with ethyl acetate (100 ml), cooled to 0° C. and 50 ml of 3N hydrochloric acid added dropwise. The organic layer is separated and the aqueous layer extracted twice with 100 ml of ethyl acetate. The organic layer and extracts are combined, dried (Na2SO4) and the solvent removed. The residue is dried under vacuum to give 20.7 g of a yellow gum.

reactant | L-phenylalanine | 8.2 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
reactant | dibenzyl phosphite | 13.1 g | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
solvent | water | 15 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | N-(Dibenzyloxyphosphinyl)-L-phenylalanine | 20.7 g | C(C1=CC=CC=C1)OP(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)O)OCC1=CC=CC=C1 | C23H24NO5P
